US04404138
3-[2-(3-Azabicyclo[3.2.2]non-3-yl)ethyl]-1,2,3,4-tetrahydro-7,8-dihydroxy-5H-[1]benzopyrano[3,4-c]pyridin-5-one dihydrobromide
Prepared by the method described in Example 19 from 3-[2-(3-azabicyclo[3.2.2]non-3-yl)ethyl]-1,2,3,4-tetrahydro-7,8-dimethoxy-5H-[1]benzopyrano[3,4-c]pyridin-5-one dihydrochloride (1.3 g, 0.0027 moles) and aqueous 48% hydrobromic acid (25 ml) plus acetic acid cosolvent (25 ml). After washing with a small amount of warm acetic acid, the final product (0.90 g) had mp 310°-313° C.

reactant | 3-[2-(3-azabicyclo[3.2.2]non-3-yl)ethyl]-1,2,3,4-tetrahydro-7,8-dimethoxy-5H-[1]benzopyrano[3,4-c]pyridin-5-one dihydrochloride | 0.0027 moles, 1.3 g | Cl.Cl.C12CN(CC(CC1)CC2)CCN2CC1=C(CC2)C2=C(OC1=O)C(=C(C=C2)OC)OC
reactant | hydrobromic acid | 25 ml | Br | BrH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3-[2-(3-Azabicyclo[3.2.2]non-3-yl)ethyl]-1,2,3,4-tetrahydro-7,8-dihydroxy-5H-[1]benzopyrano[3,4-c]pyridin-5-one dihydrobromide | Br.Br.C12CN(CC(CC1)CC2)CCN2CC1=C(CC2)C2=C(OC1=O)C(=C(C=C2)O)O | InChI=1S/C22H28N2O4.2BrH/c25-19-6-5-17-16-7-8-23(13-18(16)22(27)28-21(17)20(19)26)9-10-24-11-14-1-2-15(12-24)4-3-14;;/h5-6,14-15,25-26H,1-4,7-13H2;2*1H
